US06211215B1
In substantially the same manner as in Reference Example 12, 3-(4-benzyloxyphenyl)propanol was allowed to react with methanesulfonyl chloride to give 3-(4-benzyloxyphenyl)propyl methanesulfonate. The yield was 98%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 74-75° C.

reactant | 3-(4-benzyloxyphenyl)propanol | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCCO | C16H18O2
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | 3-(4-benzyloxyphenyl)propyl methanesulfonate | yield was 98% | CS(=O)(=O)OCCCC1=CC=C(C=C1)OCC1=CC=CC=C1 | C17H20O4S
